US05854234
2-carboethoxycycloheptanone (1 mmol), finely powdered potassium carbonate (2 mmol), allyl bromide (1.5 mmol), and tetrabutyl ammonium iodide (10 mg/mmol) are combined in dry DMF (1.25 mL/mmol) and stirred under N2 at 55° to 60° C. for 16 to 18 hours. The room temperature reaction mixture is poured into water and extracted with Et2O and EtOAc. The combined organics are washed with brine, dried, and stripped of all solvent under reduced pressure to provide 2-allyl-2-carboethoxycycloheptanone. This material is combined with lithium chloride (5 mmol), water (1.05 mmol) and dimethyl sulfoxide (5 mL/mmol) and the mixture refluxed for approximately 4 hrs. The mixture is poured into water and extracted with Et2O and EtOAc. The combined organics are washed with brine, dried, and stripped of all solvent under reduced pressure to provide 2-allylcycloheptanone. A sample of the 2-allylcycloheptanone is converted to the title compound by the method of EXAMPLE 24 using hydroxylamine hydrochloride and NaOAc in a mixture of EtOH and water.

reactant | 2-carboethoxycycloheptanone | 1 mmol | C(=O)(OCC)C1C(CCCCC1)=O | C10H16O3
reactant | potassium carbonate | 2 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.5 mmol | C(C=C)Br | C3H5Br
reactant | water | O | H2O
catalyst | tetrabutyl ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-allyl-2-carboethoxycycloheptanone | C(C=C)C1(C(CCCCC1)=O)C(=O)OCC | C13H20O3
